US04536504
In 75 ml of pyridine-acetone (pyridine:acetone=2:1) were dissolved 20 g (76 mmol) of ethyl 5-fluoro-6-acetoxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate and 11.4 g (91 mol) of (Z)-5-methylfurfuraldoxime, and the solution was stirred at room temperature for 4 days. The reaction solution was concentrated under reduced pressure, and the residue was treated with water. Crystals precipitated were collected by filtration and washed with water. The crystals were dried under reduced pressure and dissolved in acetone, and insoluble matters were filtered off. The filtrate was concentrated, and the residue was chromatographed on silica gel with chloroform-acetone (7:1), followed by recrystallization from ethyl acetate-hexane to yield 4.6 g of ethyl 5-fluoro-6-[(Z)5-methylfurfurylideneaminooxy]-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate. m.p. 163°-164° C.

reactant | ethyl 5-fluoro-6-acetoxy-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | 76 mmol, 20 g | FC1(C(NC(NC1OC(C)=O)=O)=O)C(=O)OCC | C9H11FN2O6
reactant | (Z)-5-methylfurfuraldoxime | 91 mol, 11.4 g | CC1=CC=C(\C=N/O)O1 | C6H7NO2
solvent | pyridine acetone | 75 ml | N1=CC=CC=C1.CC(=O)C
product | ethyl 5-fluoro-6-[(Z)5-methylfurfurylideneaminooxy]-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | 4.6 g | FC1(C(NC(NC1O\N=C/C1=CC=C(O1)C)=O)=O)C(=O)OCC | C13H14FN3O6
